US08030518B2
Step F: N-(1,3-dimethyl-5-oxo-5,6,7,8-tetrahydronaphthalen-2-yl)-3,3-dimethylbutanamide
To a solution of 6-amino-5,7-dimethyl-3,4-dihydronaphthalen-1(2H)-one (1 g, 5.3 mmol) and triethylamine (1.07 g, 10.6 mmol) in anhydrous dichloromethane (20 ml) was added dropwise tert-butylacetyl chloride (0.78 g, 5.8 mmol) at room temperature. The reaction mixture was stirred an additional 3 hours at this temperature. The solvent was removed under reduced pressure, and the residue was purified by Biotage (hexane/EtOAc, 0-40%, 40 min) to give a white solid (1.4 g, 92%). 1H-NMR δ (CDCl3, 300 MHz): 7.82 (s, 1H), 6.73 (brs, 1H, exchangeable with D2O), 2.85 (t, J=6.0 Hz, 2H), 2.60 (t, J=6.0 Hz, 2H), 2.33 (s, 2H), 2.27 (s, 3H), 2.18 (s, 3H), 2.15 (m, J=6.0 Hz, 2H), 1.16 (s, 9H). MS: 288 (M+1).

reactant | 6-amino-5,7-dimethyl-3,4-dihydronaphthalen-1(2H)-one | 5.3 mmol, 1 g | NC=1C(=C2CCCC(C2=CC1C)=O)C | C12H15NO
reactant | triethylamine | 10.6 mmol, 1.07 g | C(C)N(CC)CC | C6H15N
reactant | tert-butylacetyl chloride | 5.8 mmol, 0.78 g | C(C)(C)(C)CC(=O)Cl | C6H11ClO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(1,3-dimethyl-5-oxo-5,6,7,8-tetrahydronaphthalen-2-yl)-3,3-dimethylbutanamide | 1.4 g, 92% | CC1=C(C(=CC=2C(CCCC12)=O)C)NC(CC(C)(C)C)=O | C18H25NO2
